US04581377
4-(2-Fluorenyl)-butan-2-one (4.72grams) was dissolvedin a mixture of 60 ml of pyridine and 5 ml of water, the mixture was heated at 60° C., and stirred. Potassium permanganate (6.8 grams) was added thereto little by little during 2 hours. When the addition was finished, the mixture was stirred for 2 hours more. The reaction solution was filtered, the filtrate was concentrated, and the resulting residue was dissolved in chlroform, the solution was washed with in the order of 10% hydrochloric acid, water, saturated sodium bicarbonate, and water, then dried with magensium sulfate, the solvent was evaporated therefrom, and the residue was recrystallized from ethanol to give 1.3 grams of 4-(9-oxo-2fluorenyl)-butan-2-one, yellow crystals, m.p. 75°-77° C.

reactant | 4-(2-Fluorenyl)-butan-2-one | 4.72grams | C1=C(C=CC=2C3=CC=CC=C3CC12)CCC(C)=O | C17H16O
reactant | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
reactant | Potassium permanganate | 6.8 grams | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | water | 5 ml | O | H2O
product | 4-(9-oxo-2fluorenyl)-butan-2-one | 1.3 grams | O=C1C2=CC=CC=C2C=2C=CC(=CC12)CCC(C)=O | C17H14O2
